US08685989B2
Production of 4,6-diisopropylpyrimidine-2-ol (Compound 4)
Tert-butyl 4,6-diisopropylpyrimidine-2-yl carbonate (42 mg) was dissolved in methylene chloride (4 mL). While the solution was cooled with ice, trifluoroacetic acid (1 mL) was added to the solution. The mixture was then stirred at room temperature (20 to 30° C.) for 1 hour. After the reaction was completed, the mixture was concentrated under reduced pressure and the residue was purified by silica gel column chromatography (methylene chloride: methanol=10:1) to give 8.5 mg (30% yield) of the desired product as a brown amorphous.

reactant | Tert-butyl 4,6-diisopropylpyrimidine-2-yl carbonate | 42 mg | C(OC(C)(C)C)(OC1=NC(=CC(=N1)C(C)C)C(C)C)=O | C15H24N2O3
reactant | trifluoroacetic acid | 1 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | methylene chloride | 4 mL | C(Cl)Cl | CH2Cl2
product | 4,6-diisopropylpyrimidine-2-ol | 8.5 mg, 30% yield | C(C)(C)C1=NC(=NC(=C1)C(C)C)O | C10H16N2O
